US06342516B1
Preparation of 5-(4-aminophenyl)pyrazole
To a solution of 5-(4-nitrophenyl)pyrazole (10.1 g) in ethanol (100 ml) was added Tin(II) chloride dihydrate (35.7 g) and concentrated hydrochloric acid (25.5 ml). After the addition was completed, the reaction mixture was refluxed for 3 hours. After cooling, the solvent was evaporated and strongly basified (NaOH solution) and then extracted with chloroform. The extract was washed with brine, dried (MgSO4) and evaporated to dryness to obtain the title compound (8.1 g).

reactant | 5-(4-nitrophenyl)pyrazole | 10.1 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=CC=NN1 | C9H7N3O2
reactant | Tin(II) chloride dihydrate | 35.7 g | O.O.[Sn](Cl)Cl
reactant | hydrochloric acid | 25.5 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(4-aminophenyl)pyrazole | 8.1 g | NC1=CC=C(C=C1)C1=CC=NN1 | C9H9N3
